US07973163B2
(1R,2S)-2-{[(3aR,4R,9bR)-4-Phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexylamine dihydrochloride
A mixture of tert-butyl (1R,2S)-2-{[(3aR,4R,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexylcarbamate (2.71 g, 5.7 mmol), a 4N hydrogen chloride in ethyl acetate solution (10 ml) and methanol (30 ml) was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give the title compound (2.29 g, 90%) as a colorless powder.

reactant | tert-butyl (1R,2S)-2-{[(3aR,4R,9bR)-4-phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexylcarbamate | 5.7 mmol, 2.71 g | C1(=CC=CC=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)NC(OC(C)(C)C)=O | C29H37N3O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
product | (1R,2S)-2-{[(3aR,4R,9bR)-4-Phenyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexylamine dihydrochloride | 2.29 g, 90% | Cl.Cl.C1(=CC=CC=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)N | InChI=1S/C24H29N3O.2ClH/c25-20-12-6-4-10-17(20)24(28)27-15-14-19-22(16-8-2-1-3-9-16)26-21-13-7-5-11-18(21)23(19)27;;/h1-3,5,7-9,11,13,17,19-20,22-23,26H,4,6,10,12,14-15,25H2;2*1H/t17-,19+,20+,22-,23-;;/m0../s1
